US06498176B1
A solution of 3,3-dibromo-7-azaoxindole (2.0 g, 7.2 mmol) in THF (50 mL) is stirred at room temperature and a saturated aqueous solution of NH4Cl is added. Activated zinc powder is added and the reaction mixture is stirred for 2 h. The zinc is removed by filtration through a pad of diatomaceous earth and the organic layer is separated. The aqueous layer is extracted with THF (10 mL) and the combined organic layers are dried over anhydrous MgSO4, filtered and evaporated. The residue is slurried in 10:1 CHCl3:MeOH (15 mL) and filtered through a pad of silica gel and the filtrate is evaporated. The residue is triturated with water and the solid is collected by filtration and dried under vacuum to give 7-azaoxindole, 0.668 g (70%). 1H NMR (DMSO-d6) δ 10.94 (s, 1H), 8.02 (d, 1H, J=5.2 Hz), 7.52 (d, 1H, J=6.8 Hz), 6.90 (dd, 1H, J=6.8, 5.2 Hz), 3.53 (s, 2H). MS(AP−ve) 133 (100) (M−H)

reactant | 3,3-dibromo-7-azaoxindole | 7.2 mmol, 2.0 g | BrC1(C(NC2=NC=CC=C12)=O)Br | C7H4Br2N2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | zinc | [Zn] | Zn
product | 7-azaoxindole | N1C(CC2=CC=CN=C12)=O | C7H6N2O
